US08431563B2
A vial was charged with 2-(4-bromophenyl)-1,1,1,3,3,3-hexafluoro-2-propanol (0.161 g, 0.499 mmol, Bioorg. Med. Chem. Lett. 2002, 12, 3009), (S)-tert-butyl 3-methylpiperazine-1-carboxylate (0.100 g, 0.499 mmol, Sigma-Aldrich, St. Louis, Mo.), sodium tert-butoxide (0.115 g, 1.198 mmol), and 2.5 mL of anhydrous toluene. To this was added dicyclohexyl(2′,6′-diisopropoxybiphenyl-2-yl)phosphine (RuPhos) (0.035 g, 0.075 mmol, Strem Chemical Inc, Newburyport, Mass.) and tris(dibenzylideneacetone)dipalladium (0) (0.023 g, 0.025 mmol, Strem Chemical Inc, Newburyport, Mass.). The vial was sealed and the mixture was heated at 100° C. for 18 h. After that time, the reaction was partitioned between saturated NaHCO3 (50 mL) and EtOAc (50 mL). The organics were separated, washed with brine (50 mL), and dried (NaSO4) and volatiles were removed in vacuo. The residue was dissolved in 2 mL of CH2Cl2. To this was added 4 N HCl in dioxane (5 mL) and the mixture was stirred at room temperature for 3 h. The reaction mixture was concentrated and the residue was dissolved with CH2Cl2 (10 mL). To this was added 1 mL of Hünig's base and 2-thiazolesulfonyl chloride (95 mg, 0.52 mmol, Bioorg. Med. Chem., 2006, 14, 6628). This mixture was stirred at room temperature for 18 h and then concentrated, the residue was dissolved in methanol (3 mL), and filtered through a 0.45 micron filter. The crude material was purified by reverse-phase preparative HPLC using a Phenomenex Gemini C18 column (10 μm), 150×30 mm, eluting with a 0.1% TFA in CH3CN/H2O, gradient (10% to 90% over 20 min) to afford 1,1,1,3,3,3-hexafluoro-2-(4-((2S)-2-methyl-4-(1,3-thiazol-2-ylsulfonyl)-1-piperazinyl)phenyl)-2-propanol trifluoroacetate (41 mg) as an orange oil. 1H NMR (300 MHz, MeOH) δ 8.06 (d, J=3.1 Hz, 1H), 7.98 (d, J=2.9 Hz, 1H), 7.56 (d, J=8.8 Hz, 2H), 6.98 (d, J=8.8 Hz, 2H), 4.17 (d, J=3.4 Hz, 1H), 3.83 (s, 1H), 3.64 (d, J=12.1 Hz, 1H), 3.47 (d, J=2.9 Hz, 1H), 3.07-3.27 (m, 2H), 2.87-3.04 (m, 1H), 2.15 (s, 3H). m/z (ESI, +ve ion) 490.1 (M+H)+. GK-GKRP EC50 (NADPH-coupled)=0.561 μM; GK-GKRP EC50 (LC MS/MS)=0.702 μM.

reactant | 2-(4-bromophenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 0.499 mmol, 0.161 g | BrC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C9H5BrF6O
reactant | (S)-tert-butyl 3-methylpiperazine-1-carboxylate | 0.499 mmol, 0.100 g | C[C@H]1CN(CCN1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | sodium tert-butoxide | 1.198 mmol, 0.115 g | CC(C)([O-])C.[Na+]
reactant | dicyclohexyl(2′,6′-diisopropoxybiphenyl-2-yl)phosphine | 0.075 mmol, 0.035 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC(C)C)OC(C)C)C1CCCCC1 | C30H43O2P
reactant | Hünig's base | 1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-thiazolesulfonyl chloride | 0.52 mmol, 95 mg | S1C(=NC=C1)S(=O)(=O)Cl | C3H2ClNO2S2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.025 mmol, 0.023 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
product | 1,1,1,3,3,3-hexafluoro-2-(4-((2S)-2-methyl-4-(1,3-thiazol-2-ylsulfonyl)-1-piperazinyl)phenyl)-2-propanol trifluoroacetate | 41 mg | FC(C(=O)O)(F)F.FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)N1[C@H](CN(CC1)S(=O)(=O)C=1SC=CN1)C)(F)F | InChI=1S/C17H17F6N3O3S2.C2HF3O2/c1-11-10-25(31(28,29)14-24-6-9-30-14)7-8-26(11)13-4-2-12(3-5-13)15(27,16(18,19)20)17(21,22)23;3-2(4,5)1(6)7/h2-6,9,11,27H,7-8,10H2,1H3;(H,6,7)/t11-;/m0./s1
